US08895733B2
Intermediate 215: 5-(Cyclopropylmethoxy)pyridine-2-carbonitrile
Cyclopropylmethanol (0.120 mL, 1.504 mmol) was added to a suspension of sodium hydride (60% in mineral oil) (0.072 g, 1.805 mmol) in DMF (4 mL) at room temperature. The mixture was stirred at room temperature for 30 min, 4-chlorobenzonitrile (0.139 g, 1.002 mmol) was added. The reaction mixture was stirred at room temperature for 18 h. The mixture was diluted with water and extracted with EtOAc (3 times). The organic extracts were combined, washed with water (2 times), brine (2 times), dried and evaporated under vacuum. The crude residue was purified by flash chromatography (hexane:EtOAc 9:1 to 85:15) to afford the title compound (0.120 g, 69%). Method B HPLC-MS: MH+ requires m/z=175. Found: m/z=175, Rt=1.73 min (100%).

reactant | Cyclopropylmethanol | 1.504 mmol, 0.120 mL | C1(CC1)CO | C4H8O
reactant | sodium hydride | 1.805 mmol, 0.072 g | [H-].[Na+]
reactant | 4-chlorobenzonitrile | 1.002 mmol, 0.139 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-(Cyclopropylmethoxy)pyridine-2-carbonitrile | 0.120 g, 69% | C1(CC1)COC=1C=CC(=NC1)C#N | C10H10N2O
